US06410562B1
5-Chloro-2-(4-methylphenyl)benzo[b]thiophene (X=Cl, Y=4-CH3)
The compound was prepared in the same manner as described in Preparation 48, Step B, from 2.06 g (8.32 mmol) 2-bromo-5-chlorobenzothiophene and 2.44 g (17.95 mmol) 4-methylbenzeneboronic acid and isolated by crystallization from ethyl acetate.

reactant | 2-bromo-5-chlorobenzothiophene | 8.32 mmol, 2.06 g | BrC=1SC2=C(C1)C=C(C=C2)Cl | C8H4BrClS
reactant | 4-methylbenzeneboronic acid | 17.95 mmol, 2.44 g | CC1=CC=C(C=C1)B(O)O | C7H9BO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-2-(4-methylphenyl)benzo[b]thiophene | ClC1=CC2=C(SC(=C2)C2=CC=C(C=C2)C)C=C1 | C15H11ClS
